US07772221B2
Step AK (1): (R)-2-amino-4-methylpentan-1-ol (1.0 g, 8.53 mmol) was dissolved in ethyl trifluoroacetate (2.5 mL). The reaction mixture was stirred overnight at rt. The reaction mixture was diluted with water and extracted with EtOAc. The combined organic phases were washed with water and brine. The organic phases were dried over Na2SO4, filtered and concentrated in vacuum. The residue was purified by silica gel chromatography to give (R)-2,2,2-trifluoro-N-(1-hydroxy-4-methylpentan-2-yl)acetamide (1.48 g, 81%) as a colorless oil. LC-MS (M+H)+=214.81.

reactant | (R)-2-amino-4-methylpentan-1-ol | 8.53 mmol, 1.0 g | N[C@@H](CO)CC(C)C | C6H15NO
reactant | ethyl trifluoroacetate | 2.5 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | water | O | H2O
product | (R)-2,2,2-trifluoro-N-(1-hydroxy-4-methylpentan-2-yl)acetamide | 1.48 g, 81% | FC(C(=O)N[C@@H](CO)CC(C)C)(F)F | C8H14F3NO2
